US07453010B2
A solution of 12.6 g of tert-butyl trans-benzyl[4-(4-hydroxyphenyl)cyclohexyl]carbamate (33 mmol) and of 11.5 ml of 2,6-lutidine (99 mmol) in dichloromethane (125 ml) is stirred at 0° C. 6.1 ml of trifluoromethanesulfonic anhydride are subsequently added and the reaction mixture is left stirring for 1 h 30. Water is added and the aqueous phase is extracted once with dichloromethane. The organic phases are combined and dried over sodium sulfate. The solvents are evaporated under reduced pressure and trans-4-{4-[benzyl(tert-butoxycarbonyl)amino]cyclohexyl}phenyl trifluoromethanesulfonate is obtained in the form of crystals (16.43 g, 97%) after purification on silica gel (eluent: dichloromethane). [M+H+]=514.4

reactant | tert-butyl trans-benzyl[4-(4-hydroxyphenyl)cyclohexyl]carbamate | 33 mmol, 12.6 g | C(C1=CC=CC=C1)N(C(OC(C)(C)C)=O)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O | C24H31NO3
reactant | 2,6-lutidine | 99 mmol, 11.5 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 6.1 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Water | O | H2O
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
product | trans-4-{4-[benzyl(tert-butoxycarbonyl)amino]cyclohexyl}phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N(C(=O)OC(C)(C)C)CC1=CC=CC=C1)(F)F | C25H30F3NO5S
